US07220744B2
e) Rac-2-Benzenesulfonyl-2-methyl-3-trifluoromethyl-oxirane
To a solution of 15.2 mmol n-butyllithium solution (1.6 M in hexane) in 20 ml tetrahydrofuran at −78° C. was added dropwise 15.2 mmol tert-butyl hydroperoxide solution (5.5 M in nonane) and the mixture was stirred at −78° C. for 10 min, then warmed to −50° C. and re-cooled to −78° C. A solution of 10.1 mmol ((E)-4,4,4-trifluoro-but-2-ene-2-sulfonyl)-benzene in 6 ml tetrahydrofuran was then added dropwise and stirring continued for a further 30 min at −78° C. and then the reaction mixture was allowed to warm to room temperature. The reaction mixture was diluted with ethyl acetate and washed sequentially with 1 M hydrochloric acid and with brine. The organic phase was then dried over sodium sulphate and concentrated in vacuo. The residue was purified by chromatography (SiO2, ethyl acetate/heptane) to afford the title compound as a colourless oil (yield 49%). EI-MS (m/e): 251.1 ([M−CH3]+, 6%), 250.1 ([M−O]+, 20%), 126.1 (PhSOH+, 61%), 125.0 ([M−PhSO2]+, 100%), 78.2 (PhH+, 21%), 77.2 (Ph+, 44%), 43.3 (CH3CHCH3+, 73%).

reactant | n-butyllithium | 15.2 mmol, 1.6 M | C(CCC)[Li]
reactant | tert-butyl hydroperoxide | 15.2 mmol, 5.5 M | C(C)(C)(C)OO | C4H10O2
reactant | ((E)-4,4,4-trifluoro-but-2-ene-2-sulfonyl)-benzene | 10.1 mmol | FC(/C=C(\C)/S(=O)(=O)C1=CC=CC=C1)(F)F | C10H9F3O2S
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 6 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Rac-2-Benzenesulfonyl-2-methyl-3-trifluoromethyl-oxirane | yield 49% | C1(=CC=CC=C1)S(=O)(=O)C1(OC1C(F)(F)F)C | C10H9F3O3S
